US07105544B2
N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOHEXANECARBOXAMIDE
Example 131 was prepared from 1-(4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.49 (s, 1H), 7.43 (dd, 1H, J=6.9, 2.5 Hz), 7.36–7.31 (m, 2H), 7.23–7.17 (m, 1H), 6.93 (t, 2H, J=8.4 Hz), 6.87 (t, 1H, J=8.9 Hz), 6.73–6.68 (m, 1H), 3.21 (q, 2H, J=5.7 Hz), 2.87–2.80 (m, 2H), 2.73–2.65 (m, 1H), 2.45 (septet, 1H, J=6.7 Hz), 2.30–2.21 (m, 4H), 1.9–1.77 (m, 5H), 1.70–1.63 (m, 3H), 1.56–1.45 (m, 8H), 1.17 (d, 6H, J=6.7 Hz); ESMS m/e: 526.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-1-(4-FLUOROPHENYL)CYCLOHEXANECARBOXAMIDE | FC1=C(C=C(C=C1)NC(C(C)C)=O)C1CCN(CC1)CCCNC(=O)C1(CCCCC1)C1=CC=C(C=C1)F | C31H41F2N3O2
